US05238938
There was stirred, for 30 minutes at room temperature, a mixture of 80 mg of 3-benzyloxy-2-isobutyl-6-methoxy-5-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide, 1 ml of methanol and one drop of concentrated hydrochloric acid. The reaction mixture was mixed with diethyl ether, then the mixture was washed with an aqueous solution saturated over sodium hydrogen carbonate, and dried over magnesium sulfate. The solvent was removed by evaporation. The residue was purified by a silica gel thin layer chromatography (developing solvent: 50% by volume of ethyl acetate-n-hexane), followed by recrystallization from diethyl ether-n-hexane to obtain 63 mg of 3-benzyloxy-5-hydroxymethyl-2-isobutyl-6-methoxypyrazine 1-oxide (Compound B-16) as colorless needle-like crystals having a melting point of 68.0°-69.2° C.

reactant | 3-benzyloxy-2-isobutyl-6-methoxy-5-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide | 80 mg | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)COC1OCCCC1)OC)[O-])CC(C)C | C22H30N2O5
reactant | methanol | 1 ml | CO | CH4O
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-benzyloxy-5-hydroxymethyl-2-isobutyl-6-methoxypyrazine 1-oxide | 63 mg | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)CO)OC)[O-])CC(C)C | C17H22N2O4
